US05633379
2.3 g (53.2 mmol) of sodium hydride in the form of a suspension in mineral oil are placed at 0° in 30 ml of tetrahydrofuran. Then at 0° to 10°, 6.6 g (44.:3 mmol) of thioglycolic acid tert-butyl ester are added dropwise thereto. A viscous suspension is formed which is diluted with 50 ml of tetrahydrofuran. The mixture is then stirred for 20 minutes at 0° and then 12 g (44.3 mmol) of 2-bromo-4-phenyl-butyric acid methyl ester are added dropwise thereto. The mixture is stirred for 2 hours at room temperature, then taken up in 100 ml of ethyl acetate and extracted by shaking in succession with 50 ml of water and 50 ml of saturated sodium chloride solution. The aqueous phases are combined and extracted by shaking with 25 ml of ethyl acetate. The organic phases are combined, dried over sodium sulfate, filtered and concentrated by evaporation. Chromatography on silica g al with hexane/ethyl acetate (20:1) as eluant yields 5.7 g (38% of theory) of 2-tert-butyloxycabonylmethylthio-4-phenyl-butyric acid ethyl ester in the form of an oil.

reactant | sodium hydride | 53.2 mmol, 2.3 g | [H-].[Na+]
reactant | thioglycolic acid tert-butyl ester | 3 mmol, 6.6 g | C(C)(C)(C)OC(CS)=O | C6H12O2S
reactant | 2-bromo-4-phenyl-butyric acid methyl ester | 44.3 mmol, 12 g | COC(C(CCC1=CC=CC=C1)Br)=O | C11H13BrO2
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-tert-butyloxycabonylmethylthio-4-phenyl-butyric acid ethyl ester | 5.7 g, 38% | C(C)OC(C(CCC1=CC=CC=C1)SCC(=O)OC(C)(C)C)=O | C18H26O4S
